US08975252B2
20% Palladium hydroxide-carbon (dry) (22 mg) was added to a solution of tert-butyl(2S,6R)-2-[(benzyloxy)methyl]-6-({cyclopropyl[4-methoxy-3-(3-methoxypropoxy)benzyl]amino}carbonyl)morpholin-4-carboxylate (220 mg) in methanol and the mixture was stirred under normal pressure of hydrogen atmosphere at room temperature for 6 hours. After filtration of insoluble materials through Celite, the filtrate was concentrated to give tert-butyl(2R,6S)-2-({cyclopropyl[4-methoxy-3-(3-methoxypropoxy)benzyl]amino}carbonyl)-6-(hydroxymethyl)morpholin-4-carboxylate (200 mg) as a pale yellow oil.

reactant | tert-butyl(2S,6R)-2-[(benzyloxy)methyl]-6-({cyclopropyl[4-methoxy-3-(3-methoxypropoxy)benzyl]amino}carbonyl)morpholin-4-carboxylate | 220 mg | C(C1=CC=CC=C1)OC[C@@H]1CN(C[C@@H](O1)C(=O)N(CC1=CC(=C(C=C1)OC)OCCCOC)C1CC1)C(=O)OC(C)(C)C | C33H46N2O8
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | Palladium hydroxide carbon | 22 mg | [OH-].[Pd+2].[OH-].[C]
product | tert-butyl(2R,6S)-2-({cyclopropyl[4-methoxy-3-(3-methoxypropoxy)benzyl]amino}carbonyl)-6-(hydroxymethyl)morpholin-4-carboxylate | 200 mg | C1(CC1)N(C(=O)[C@H]1CN(C[C@H](O1)CO)C(=O)OC(C)(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C26H40N2O8
